US07662771B2
Mixture of 7-(2-methoxy-benzoylamino)-6-oxo-heptanoic acid methyl ester 5-(2-methoxy-benzoylamino)-6-oxo-heptanoic acid methyl ester
Combine a mixture of 7-amino-6-oxo-heptanoic acid methyl ester and 5-amino-6-oxo-heptanoic acid methyl ester hydrochlorides (2.36 g, 11.3 mmol) with o-anisic acid (1.71 g, 11.3 mmol), 1-(dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (2.16 g, 11.3 mmol), 1-hydroxybenzotriazole hydrate (11.3 mmol), N,N-diisopropylethylamine (5.88 mL, 33.8 mmol) in DMF and stir for 24-48 hours. Dilute the mixture with water and extract with EtOAc. Wash the combined extracts with brine and dry over Na2SO4 before concentrating. Chromatograph the residue over silica gel (MeOH/CH2Cl2) to allow for isolation of a mixture of 7-(2-methoxy-benzoylamino)-6-oxo-heptanoic acid methyl ester and 5-(2-methoxy-benzoylamino)-6-oxo-heptanoic acid methyl ester (3.45 g, 99%). MS (ES): (M+1)+ 308.1 m/z.

reactant | 7-amino-6-oxo-heptanoic acid methyl ester | COC(CCCCC(CN)=O)=O | C8H15NO3
reactant | o-anisic acid | 11.3 mmol, 1.71 g | C(C=1C(=CC=CC1)OC)(=O)O | C8H8O3
reactant | 1-(dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 11.3 mmol, 2.16 g | Cl.CN(C)CCCN=C=NCC
reactant | 1-hydroxybenzotriazole hydrate | 11.3 mmol | O.ON1N=NC2=C1C=CC=C2
reactant | N,N-diisopropylethylamine | 33.8 mmol, 5.88 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 7-(2-methoxy-benzoylamino)-6-oxo-heptanoic acid methyl ester 5-(2-methoxy-benzoylamino)-6-oxo-heptanoic acid methyl ester | COC(CCCC(C(C)=O)NC(C1=C(C=CC=C1)OC)=O)=O.COC(CCCCC(CNC(C1=C(C=CC=C1)OC)=O)=O)=O | 2C16H21NO5
